US05374641
p-Tolylacetic acid (10 g) was dissolved in 30 ml of absolute methanol, followed by addition of 10% hydrogen chloride-methanol (10 ml), and stirred overnight at room temperature. The reaction solution was concentrated and dissolved in chloroform, followed by washing in saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, to distill off the solvent. Methyl p-tolylacetate (11 g) was obtained.

reactant | p-Tolylacetic acid | 10 g | C1(=CC=C(C=C1)CC(=O)O)C | C9H10O2
reactant | hydrogen chloride methanol | 10 ml | Cl.CO
solvent | methanol | 30 ml | CO | CH4O
product | Methyl p-tolylacetate | 11 g | C1(=CC=C(C=C1)CC(=O)OC)C | C10H12O2
